US04863920
2.20 g (8 mmol) of 3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at 145° for 6 hours together with 1.43 ml (9.6 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 30 ml of N,N-dimethylformamide. The reaction mixture was subsequently poured into water and extracted five times with methylene chloride. The organic extracts were washed five times with water, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel while eluting with ethyl acetate and subsequent recrystallization from ethyl acetate there was obtained 3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one of melting point 191°-193°.

reactant | 3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 8 mmol, 2.20 g | Cl\C=C/C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C14H12ClN3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.6 mmol, 1.43 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | C(#C)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C14H11N3O
